US06017917
A mixture of dimethyl 5-(2-chloro-5-methoxyphenyl)-isophthalate (1.20 g) and potassium hydroxide (0.23 g) in methanol (60 ml) and 1,4-dioxane (20 ml) was refluxed for 48 hours. The mixture was evaporated in vacuo and to the residue was added ethyl acetate and water. Two layers were separated and the aqueous layer was acidified with hydrochloric acid solution. The product was extracted with ethyl acetate and the organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo to give 5-(2-chloro-5-methoxyphenyl)-3-methoxycarbonylbenzoic acid (0.96 g, 83.5%).

reactant | dimethyl 5-(2-chloro-5-methoxyphenyl)-isophthalate | 1.20 g | ClC1=C(C=C(C=C1)OC)C=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C17H15ClO5
reactant | potassium hydroxide | 0.23 g | [OH-].[K+]
solvent | methanol | 60 ml | CO | CH4O
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 5-(2-chloro-5-methoxyphenyl)-3-methoxycarbonylbenzoic acid | 0.96 g, 83.5% | ClC1=C(C=C(C=C1)OC)C=1C=C(C=C(C(=O)O)C1)C(=O)OC | C16H13ClO5
